US05739351
0.35 g of sodium azide is added to a solution of 2.03 g of (3aRS,4RS,6SR,7aSR)-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]-6-tosylmethylperhydroisoindol-4-ol in 10 cm3 of dimethylformamide. The reaction mixture is heated at 50° C. for 8 hours and stirred at 20° C. for 48 hours and then diluted with 150 cm3 of water and subjected to extraction twice with 40 cm3 of ethyl acetate. The organic phase is washed with 50 cm3 of water, dried over magnesium sulphate and then concentrated to dryness under reduced pressure (2.7 kPa). 1.6 g of (3aRS,4RS,6SR,7aSR)-6-azidomethyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]perhydroisoindol-4-ol are obtained in the form of a thick white foam.

reactant | sodium azide | 0.35 g | [N-]=[N+]=[N-].[Na+]
reactant | (3aRS,4RS,6SR,7aSR)-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]-6-tosylmethylperhydroisoindol-4-ol | 2.03 g | COC1=C(C=CC=C1)C1(C2CN(CC2CC(C1)CS(=O)(=O)C1=CC=C(C)C=C1)C(CC1=C(C=CC=C1)OC)=O)O | C32H37NO6S
solvent | dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
solvent | water | 150 cm3 | O | H2O
product | (3aRS,4RS,6SR,7aSR)-6-azidomethyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]perhydroisoindol-4-ol | 1.6 g | N(=[N+]=[N-])CC1CC(C2CN(CC2C1)C(CC1=C(C=CC=C1)OC)=O)(O)C1=C(C=CC=C1)OC | C25H30N4O4
